*** SPICE deck for cell MUX_4_1_TG{lay} from library All_ICs
*** Created on Fri Apr 17, 2020 23:42:19
*** Last revised on Mon May 11, 2020 01:08:24
*** Written on Mon May 11, 2020 01:08:34 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** TOP LEVEL CELL: MUX_4_1_TG{lay}
Mnmos@0 net@0 net@1#8nmos@0_poly-right I0 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mnmos@1 net@1 S1#2nmos@1_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=24.245P AD=1.684P PS=59.325U PD=5.425U
Mnmos@2 net@0 S1#10nmos@2_poly-left I2 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mnmos@3 net@57 net@58#8nmos@3_poly-right I1 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mnmos@4 net@58 S1#14nmos@4_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=24.245P AD=1.684P PS=59.325U PD=5.425U
Mnmos@5 net@57 S1#22nmos@5_poly-left I3 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mnmos@6 out net@115#8nmos@6_poly-right net@0 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mnmos@7 net@115 S0#2nmos@7_poly-right gnd gnd NMOS L=0.35U W=1.75U AS=24.245P AD=1.684P PS=59.325U PD=5.425U
Mnmos@8 out S0#10nmos@8_poly-left net@57 gnd NMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@0 I0 S1#4pmos@0_poly-left net@0 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@1 vdd S1#8pmos@1_poly-right net@1 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=30.819P PS=5.425U PD=59.908U
Mpmos@2 I2 net@1#9pmos@2_poly-left net@0 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@3 I1 S1#16pmos@3_poly-left net@57 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@4 vdd S1#20pmos@4_poly-right net@58 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=30.819P PS=5.425U PD=59.908U
Mpmos@5 I3 net@58#9pmos@5_poly-left net@57 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@6 net@0 S0#4pmos@6_poly-left out vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
Mpmos@7 vdd S0#8pmos@7_poly-right net@115 vdd PMOS L=0.35U W=1.75U AS=1.684P AD=30.819P PS=5.425U PD=59.908U
Mpmos@8 net@57 net@115#9pmos@8_poly-left out vdd PMOS L=0.35U W=1.75U AS=1.684P AD=1.684P PS=5.425U PD=5.425U
** Extracted Parasitic Capacitors ***
C0 I0 0 4.466fF
C1 net@0 0 16.814fF
C2 net@1 0 1.643fF
C3 S1 0 6.019fF
C4 I2 0 5.638fF
C5 I1 0 4.466fF
C6 net@57 0 13.451fF
C7 net@58 0 1.643fF
C8 I3 0 5.638fF
C9 out 0 6.879fF
C10 net@115 0 1.643fF
C11 S0 0 1.273fF
C12 S1#3pin@2_polysilicon-1 0 0.149fF
C13 S1#5pin@5_polysilicon-1 0 0.13fF
C14 S1#6pin@6_polysilicon-1 0 0.171fF
C15 S1#11pin@11_polysilicon-1 0 0.137fF
C16 S1#1pin@12_polysilicon-1 0 0.177fF
C17 net@1#10pin@13_polysilicon-1 0 0.113fF
C18 net@1#11pin@14_polysilicon-1 0 0.156fF
C19 net@1#6pin@15_polysilicon-1 0 0.149fF
C20 net@1#2pin@17_polysilicon-1 0 0.184fF
C21 S1#15pin@25_polysilicon-1 0 0.149fF
C22 S1#17pin@28_polysilicon-1 0 0.13fF
C23 S1#18pin@29_polysilicon-1 0 0.171fF
C24 S1#23pin@34_polysilicon-1 0 0.137fF
C25 S1#13pin@35_polysilicon-1 0 0.177fF
C26 net@58#10pin@36_polysilicon-1 0 0.113fF
C27 net@58#11pin@37_polysilicon-1 0 0.156fF
C28 net@58#6pin@38_polysilicon-1 0 0.149fF
C29 net@58#2pin@40_polysilicon-1 0 0.184fF
C30 S0#3pin@48_polysilicon-1 0 0.149fF
C31 S0#5pin@51_polysilicon-1 0 0.13fF
C32 S0#6pin@52_polysilicon-1 0 0.171fF
C33 S0#11pin@57_polysilicon-1 0 0.137fF
C34 S0#1pin@58_polysilicon-1 0 0.177fF
C35 net@115#10pin@59_polysilicon-1 0 0.113fF
C36 net@115#11pin@60_polysilicon-1 0 0.156fF
C37 net@115#6pin@61_polysilicon-1 0 0.149fF
C38 net@115#2pin@63_polysilicon-1 0 0.184fF
** Extracted Parasitic Resistors ***
R0 S1 S1##0 9.881
R1 S1##0 S1##1 9.881
R2 S1##1 S1##2 9.881
R3 S1##2 S1##3 9.881
R4 S1##3 S1##4 9.881
R5 S1##4 S1##5 9.881
R6 S1##5 S1##6 9.881
R7 S1##6 S1#1pin@12_polysilicon-1 9.881
R8 net@1#2pin@17_polysilicon-1 net@1#2pin@17_polysilicon-1##0 9.042
R9 net@1#2pin@17_polysilicon-1##0 net@1#2pin@17_polysilicon-1##1 9.042
R10 net@1#2pin@17_polysilicon-1##1 net@1#2pin@17_polysilicon-1##2 9.042
R11 net@1#2pin@17_polysilicon-1##2 net@1#2pin@17_polysilicon-1##3 9.042
R12 net@1#2pin@17_polysilicon-1##3 net@1#2pin@17_polysilicon-1##4 9.042
R13 net@1#2pin@17_polysilicon-1##4 net@1 9.042
R14 S1#2nmos@1_poly-right S1#2nmos@1_poly-right##0 7.233
R15 S1#2nmos@1_poly-right##0 S1#2nmos@1_poly-right##1 7.233
R16 S1#2nmos@1_poly-right##1 S1#3pin@2_polysilicon-1 7.233
R17 S1#4pmos@0_poly-left S1#4pmos@0_poly-left##0 6.2
R18 S1#4pmos@0_poly-left##0 S1#5pin@5_polysilicon-1 6.2
R19 S1#5pin@5_polysilicon-1 S1#5pin@5_polysilicon-1##0 9.896
R20 S1#5pin@5_polysilicon-1##0 S1#5pin@5_polysilicon-1##1 9.896
R21 S1#5pin@5_polysilicon-1##1 S1#5pin@5_polysilicon-1##2 9.896
R22 S1#5pin@5_polysilicon-1##2 S1#5pin@5_polysilicon-1##3 9.896
R23 S1#5pin@5_polysilicon-1##3 S1#5pin@5_polysilicon-1##4 9.896
R24 S1#5pin@5_polysilicon-1##4 S1#5pin@5_polysilicon-1##5 9.896
R25 S1#5pin@5_polysilicon-1##5 S1#5pin@5_polysilicon-1##6 9.896
R26 S1#5pin@5_polysilicon-1##6 S1#5pin@5_polysilicon-1##7 9.896
R27 S1#5pin@5_polysilicon-1##7 S1#5pin@5_polysilicon-1##8 9.896
R28 S1#5pin@5_polysilicon-1##8 S1#5pin@5_polysilicon-1##9 9.896
R29 S1#5pin@5_polysilicon-1##9 S1#5pin@5_polysilicon-1##10 9.896
R30 S1#5pin@5_polysilicon-1##10 S1#5pin@5_polysilicon-1##11 9.896
R31 S1#5pin@5_polysilicon-1##11 S1#6pin@6_polysilicon-1 9.896
R32 S1#6pin@6_polysilicon-1 S1#6pin@6_polysilicon-1##0 9.521
R33 S1#6pin@6_polysilicon-1##0 S1#6pin@6_polysilicon-1##1 9.521
R34 S1#6pin@6_polysilicon-1##1 S1#6pin@6_polysilicon-1##2 9.521
R35 S1#6pin@6_polysilicon-1##2 S1#6pin@6_polysilicon-1##3 9.521
R36 S1#6pin@6_polysilicon-1##3 S1#6pin@6_polysilicon-1##4 9.521
R37 S1#6pin@6_polysilicon-1##4 S1#6pin@6_polysilicon-1##5 9.521
R38 S1#6pin@6_polysilicon-1##5 S1 9.521
R39 S1#3pin@2_polysilicon-1 S1#3pin@2_polysilicon-1##0 5.425
R40 S1#3pin@2_polysilicon-1##0 S1#8pmos@1_poly-right 5.425
R41 net@1#6pin@15_polysilicon-1 net@1#6pin@15_polysilicon-1##0 8.37
R42 net@1#6pin@15_polysilicon-1##0 net@1#6pin@15_polysilicon-1##1 8.37
R43 net@1#6pin@15_polysilicon-1##1 net@1#6pin@15_polysilicon-1##2 8.37
R44 net@1#6pin@15_polysilicon-1##2 net@1#6pin@15_polysilicon-1##3 8.37
R45 net@1#6pin@15_polysilicon-1##3 net@1#2pin@17_polysilicon-1 8.37
R46 net@1#8nmos@0_poly-right net@1#8nmos@0_poly-right##0 6.2
R47 net@1#8nmos@0_poly-right##0 net@1#2pin@17_polysilicon-1 6.2
R48 S1#10nmos@2_poly-left S1#10nmos@2_poly-left##0 6.975
R49 S1#10nmos@2_poly-left##0 S1#11pin@11_polysilicon-1 6.975
R50 S1#11pin@11_polysilicon-1 S1#11pin@11_polysilicon-1##0 9.772
R51 S1#11pin@11_polysilicon-1##0 S1#11pin@11_polysilicon-1##1 9.772
R52 S1#11pin@11_polysilicon-1##1 S1#11pin@11_polysilicon-1##2 9.772
R53 S1#11pin@11_polysilicon-1##2 S1#11pin@11_polysilicon-1##3 9.772
R54 S1#11pin@11_polysilicon-1##3 S1#11pin@11_polysilicon-1##4 9.772
R55 S1#11pin@11_polysilicon-1##4 S1#11pin@11_polysilicon-1##5 9.772
R56 S1#11pin@11_polysilicon-1##5 S1#11pin@11_polysilicon-1##6 9.772
R57 S1#11pin@11_polysilicon-1##6 S1#11pin@11_polysilicon-1##7 9.772
R58 S1#11pin@11_polysilicon-1##7 S1#11pin@11_polysilicon-1##8 9.772
R59 S1#11pin@11_polysilicon-1##8 S1#11pin@11_polysilicon-1##9 9.772
R60 S1#11pin@11_polysilicon-1##9 S1#11pin@11_polysilicon-1##10 9.772
R61 S1#11pin@11_polysilicon-1##10 S1#11pin@11_polysilicon-1##11 9.772
R62 S1#11pin@11_polysilicon-1##11 S1#11pin@11_polysilicon-1##12 9.772
R63 S1#11pin@11_polysilicon-1##12 S1#11pin@11_polysilicon-1##13 9.772
R64 S1#11pin@11_polysilicon-1##13 S1#11pin@11_polysilicon-1##14 9.772
R65 S1#11pin@11_polysilicon-1##14 S1#11pin@11_polysilicon-1##15 9.772
R66 S1#11pin@11_polysilicon-1##15 S1#11pin@11_polysilicon-1##16 9.772
R67 S1#11pin@11_polysilicon-1##16 S1#11pin@11_polysilicon-1##17 9.772
R68 S1#11pin@11_polysilicon-1##17 S1#11pin@11_polysilicon-1##18 9.772
R69 S1#11pin@11_polysilicon-1##18 S1#11pin@11_polysilicon-1##19 9.772
R70 S1#11pin@11_polysilicon-1##19 S1#11pin@11_polysilicon-1##20 9.772
R71 S1#11pin@11_polysilicon-1##20 S1#11pin@11_polysilicon-1##21 9.772
R72 S1#11pin@11_polysilicon-1##21 S1#1pin@12_polysilicon-1 9.772
R73 S1 S1##0 8.267
R74 S1##0 S1##1 8.267
R75 S1##1 S1#3pin@2_polysilicon-1 8.267
R76 net@1#9pmos@2_poly-left net@1#10pin@13_polysilicon-1 7.75
R77 net@1#10pin@13_polysilicon-1 net@1#10pin@13_polysilicon-1##0 9.042
R78 net@1#10pin@13_polysilicon-1##0 net@1#10pin@13_polysilicon-1##1 9.042
R79 net@1#10pin@13_polysilicon-1##1 net@1#10pin@13_polysilicon-1##2 9.042
R80 net@1#10pin@13_polysilicon-1##2 net@1#10pin@13_polysilicon-1##3 9.042
R81 net@1#10pin@13_polysilicon-1##3 net@1#10pin@13_polysilicon-1##4 9.042
R82 net@1#10pin@13_polysilicon-1##4 net@1#11pin@14_polysilicon-1 9.042
R83 net@1#11pin@14_polysilicon-1 net@1#11pin@14_polysilicon-1##0 9.3
R84 net@1#11pin@14_polysilicon-1##0 net@1#11pin@14_polysilicon-1##1 9.3
R85 net@1#11pin@14_polysilicon-1##1 net@1#11pin@14_polysilicon-1##2 9.3
R86 net@1#11pin@14_polysilicon-1##2 net@1#11pin@14_polysilicon-1##3 9.3
R87 net@1#11pin@14_polysilicon-1##3 net@1#11pin@14_polysilicon-1##4 9.3
R88 net@1#11pin@14_polysilicon-1##4 net@1#11pin@14_polysilicon-1##5 9.3
R89 net@1#11pin@14_polysilicon-1##5 net@1#11pin@14_polysilicon-1##6 9.3
R90 net@1#11pin@14_polysilicon-1##6 net@1#6pin@15_polysilicon-1 9.3
R91 S1 S1##0 9.881
R92 S1##0 S1##1 9.881
R93 S1##1 S1##2 9.881
R94 S1##2 S1##3 9.881
R95 S1##3 S1##4 9.881
R96 S1##4 S1##5 9.881
R97 S1##5 S1##6 9.881
R98 S1##6 S1#13pin@35_polysilicon-1 9.881
R99 net@58#2pin@40_polysilicon-1 net@58#2pin@40_polysilicon-1##0 9.042
R100 net@58#2pin@40_polysilicon-1##0 net@58#2pin@40_polysilicon-1##1 9.042
R101 net@58#2pin@40_polysilicon-1##1 net@58#2pin@40_polysilicon-1##2 9.042
R102 net@58#2pin@40_polysilicon-1##2 net@58#2pin@40_polysilicon-1##3 9.042
R103 net@58#2pin@40_polysilicon-1##3 net@58#2pin@40_polysilicon-1##4 9.042
R104 net@58#2pin@40_polysilicon-1##4 net@58 9.042
R105 S1#14nmos@4_poly-right S1#14nmos@4_poly-right##0 7.233
R106 S1#14nmos@4_poly-right##0 S1#14nmos@4_poly-right##1 7.233
R107 S1#14nmos@4_poly-right##1 S1#15pin@25_polysilicon-1 7.233
R108 S1#16pmos@3_poly-left S1#16pmos@3_poly-left##0 6.2
R109 S1#16pmos@3_poly-left##0 S1#17pin@28_polysilicon-1 6.2
R110 S1#17pin@28_polysilicon-1 S1#17pin@28_polysilicon-1##0 9.896
R111 S1#17pin@28_polysilicon-1##0 S1#17pin@28_polysilicon-1##1 9.896
R112 S1#17pin@28_polysilicon-1##1 S1#17pin@28_polysilicon-1##2 9.896
R113 S1#17pin@28_polysilicon-1##2 S1#17pin@28_polysilicon-1##3 9.896
R114 S1#17pin@28_polysilicon-1##3 S1#17pin@28_polysilicon-1##4 9.896
R115 S1#17pin@28_polysilicon-1##4 S1#17pin@28_polysilicon-1##5 9.896
R116 S1#17pin@28_polysilicon-1##5 S1#17pin@28_polysilicon-1##6 9.896
R117 S1#17pin@28_polysilicon-1##6 S1#17pin@28_polysilicon-1##7 9.896
R118 S1#17pin@28_polysilicon-1##7 S1#17pin@28_polysilicon-1##8 9.896
R119 S1#17pin@28_polysilicon-1##8 S1#17pin@28_polysilicon-1##9 9.896
R120 S1#17pin@28_polysilicon-1##9 S1#17pin@28_polysilicon-1##10 9.896
R121 S1#17pin@28_polysilicon-1##10 S1#17pin@28_polysilicon-1##11 9.896
R122 S1#17pin@28_polysilicon-1##11 S1#18pin@29_polysilicon-1 9.896
R123 S1#18pin@29_polysilicon-1 S1#18pin@29_polysilicon-1##0 9.521
R124 S1#18pin@29_polysilicon-1##0 S1#18pin@29_polysilicon-1##1 9.521
R125 S1#18pin@29_polysilicon-1##1 S1#18pin@29_polysilicon-1##2 9.521
R126 S1#18pin@29_polysilicon-1##2 S1#18pin@29_polysilicon-1##3 9.521
R127 S1#18pin@29_polysilicon-1##3 S1#18pin@29_polysilicon-1##4 9.521
R128 S1#18pin@29_polysilicon-1##4 S1#18pin@29_polysilicon-1##5 9.521
R129 S1#18pin@29_polysilicon-1##5 S1 9.521
R130 S1#15pin@25_polysilicon-1 S1#15pin@25_polysilicon-1##0 5.425
R131 S1#15pin@25_polysilicon-1##0 S1#20pmos@4_poly-right 5.425
R132 net@58#6pin@38_polysilicon-1 net@58#6pin@38_polysilicon-1##0 8.37
R133 net@58#6pin@38_polysilicon-1##0 net@58#6pin@38_polysilicon-1##1 8.37
R134 net@58#6pin@38_polysilicon-1##1 net@58#6pin@38_polysilicon-1##2 8.37
R135 net@58#6pin@38_polysilicon-1##2 net@58#6pin@38_polysilicon-1##3 8.37
R136 net@58#6pin@38_polysilicon-1##3 net@58#2pin@40_polysilicon-1 8.37
R137 net@58#8nmos@3_poly-right net@58#8nmos@3_poly-right##0 6.2
R138 net@58#8nmos@3_poly-right##0 net@58#2pin@40_polysilicon-1 6.2
R139 S1#22nmos@5_poly-left S1#22nmos@5_poly-left##0 6.975
R140 S1#22nmos@5_poly-left##0 S1#23pin@34_polysilicon-1 6.975
R141 S1#23pin@34_polysilicon-1 S1#23pin@34_polysilicon-1##0 9.772
R142 S1#23pin@34_polysilicon-1##0 S1#23pin@34_polysilicon-1##1 9.772
R143 S1#23pin@34_polysilicon-1##1 S1#23pin@34_polysilicon-1##2 9.772
R144 S1#23pin@34_polysilicon-1##2 S1#23pin@34_polysilicon-1##3 9.772
R145 S1#23pin@34_polysilicon-1##3 S1#23pin@34_polysilicon-1##4 9.772
R146 S1#23pin@34_polysilicon-1##4 S1#23pin@34_polysilicon-1##5 9.772
R147 S1#23pin@34_polysilicon-1##5 S1#23pin@34_polysilicon-1##6 9.772
R148 S1#23pin@34_polysilicon-1##6 S1#23pin@34_polysilicon-1##7 9.772
R149 S1#23pin@34_polysilicon-1##7 S1#23pin@34_polysilicon-1##8 9.772
R150 S1#23pin@34_polysilicon-1##8 S1#23pin@34_polysilicon-1##9 9.772
R151 S1#23pin@34_polysilicon-1##9 S1#23pin@34_polysilicon-1##10 9.772
R152 S1#23pin@34_polysilicon-1##10 S1#23pin@34_polysilicon-1##11 9.772
R153 S1#23pin@34_polysilicon-1##11 S1#23pin@34_polysilicon-1##12 9.772
R154 S1#23pin@34_polysilicon-1##12 S1#23pin@34_polysilicon-1##13 9.772
R155 S1#23pin@34_polysilicon-1##13 S1#23pin@34_polysilicon-1##14 9.772
R156 S1#23pin@34_polysilicon-1##14 S1#23pin@34_polysilicon-1##15 9.772
R157 S1#23pin@34_polysilicon-1##15 S1#23pin@34_polysilicon-1##16 9.772
R158 S1#23pin@34_polysilicon-1##16 S1#23pin@34_polysilicon-1##17 9.772
R159 S1#23pin@34_polysilicon-1##17 S1#23pin@34_polysilicon-1##18 9.772
R160 S1#23pin@34_polysilicon-1##18 S1#23pin@34_polysilicon-1##19 9.772
R161 S1#23pin@34_polysilicon-1##19 S1#23pin@34_polysilicon-1##20 9.772
R162 S1#23pin@34_polysilicon-1##20 S1#23pin@34_polysilicon-1##21 9.772
R163 S1#23pin@34_polysilicon-1##21 S1#13pin@35_polysilicon-1 9.772
R164 S1 S1##0 8.267
R165 S1##0 S1##1 8.267
R166 S1##1 S1#15pin@25_polysilicon-1 8.267
R167 net@58#9pmos@5_poly-left net@58#10pin@36_polysilicon-1 7.75
R168 net@58#10pin@36_polysilicon-1 net@58#10pin@36_polysilicon-1##0 9.042
R169 net@58#10pin@36_polysilicon-1##0 net@58#10pin@36_polysilicon-1##1 9.042
R170 net@58#10pin@36_polysilicon-1##1 net@58#10pin@36_polysilicon-1##2 9.042
R171 net@58#10pin@36_polysilicon-1##2 net@58#10pin@36_polysilicon-1##3 9.042
R172 net@58#10pin@36_polysilicon-1##3 net@58#10pin@36_polysilicon-1##4 9.042
R173 net@58#10pin@36_polysilicon-1##4 net@58#11pin@37_polysilicon-1 9.042
R174 net@58#11pin@37_polysilicon-1 net@58#11pin@37_polysilicon-1##0 9.3
R175 net@58#11pin@37_polysilicon-1##0 net@58#11pin@37_polysilicon-1##1 9.3
R176 net@58#11pin@37_polysilicon-1##1 net@58#11pin@37_polysilicon-1##2 9.3
R177 net@58#11pin@37_polysilicon-1##2 net@58#11pin@37_polysilicon-1##3 9.3
R178 net@58#11pin@37_polysilicon-1##3 net@58#11pin@37_polysilicon-1##4 9.3
R179 net@58#11pin@37_polysilicon-1##4 net@58#11pin@37_polysilicon-1##5 9.3
R180 net@58#11pin@37_polysilicon-1##5 net@58#11pin@37_polysilicon-1##6 9.3
R181 net@58#11pin@37_polysilicon-1##6 net@58#6pin@38_polysilicon-1 9.3
R182 S0 S0##0 9.881
R183 S0##0 S0##1 9.881
R184 S0##1 S0##2 9.881
R185 S0##2 S0##3 9.881
R186 S0##3 S0##4 9.881
R187 S0##4 S0##5 9.881
R188 S0##5 S0##6 9.881
R189 S0##6 S0#1pin@58_polysilicon-1 9.881
R190 net@115#2pin@63_polysilicon-1 net@115#2pin@63_polysilicon-1##0 9.042
R191 net@115#2pin@63_polysilicon-1##0 net@115#2pin@63_polysilicon-1##1 9.042
R192 net@115#2pin@63_polysilicon-1##1 net@115#2pin@63_polysilicon-1##2 9.042
R193 net@115#2pin@63_polysilicon-1##2 net@115#2pin@63_polysilicon-1##3 9.042
R194 net@115#2pin@63_polysilicon-1##3 net@115#2pin@63_polysilicon-1##4 9.042
R195 net@115#2pin@63_polysilicon-1##4 net@115 9.042
R196 S0#2nmos@7_poly-right S0#2nmos@7_poly-right##0 7.233
R197 S0#2nmos@7_poly-right##0 S0#2nmos@7_poly-right##1 7.233
R198 S0#2nmos@7_poly-right##1 S0#3pin@48_polysilicon-1 7.233
R199 S0#4pmos@6_poly-left S0#4pmos@6_poly-left##0 6.2
R200 S0#4pmos@6_poly-left##0 S0#5pin@51_polysilicon-1 6.2
R201 S0#5pin@51_polysilicon-1 S0#5pin@51_polysilicon-1##0 9.896
R202 S0#5pin@51_polysilicon-1##0 S0#5pin@51_polysilicon-1##1 9.896
R203 S0#5pin@51_polysilicon-1##1 S0#5pin@51_polysilicon-1##2 9.896
R204 S0#5pin@51_polysilicon-1##2 S0#5pin@51_polysilicon-1##3 9.896
R205 S0#5pin@51_polysilicon-1##3 S0#5pin@51_polysilicon-1##4 9.896
R206 S0#5pin@51_polysilicon-1##4 S0#5pin@51_polysilicon-1##5 9.896
R207 S0#5pin@51_polysilicon-1##5 S0#5pin@51_polysilicon-1##6 9.896
R208 S0#5pin@51_polysilicon-1##6 S0#5pin@51_polysilicon-1##7 9.896
R209 S0#5pin@51_polysilicon-1##7 S0#5pin@51_polysilicon-1##8 9.896
R210 S0#5pin@51_polysilicon-1##8 S0#5pin@51_polysilicon-1##9 9.896
R211 S0#5pin@51_polysilicon-1##9 S0#5pin@51_polysilicon-1##10 9.896
R212 S0#5pin@51_polysilicon-1##10 S0#5pin@51_polysilicon-1##11 9.896
R213 S0#5pin@51_polysilicon-1##11 S0#6pin@52_polysilicon-1 9.896
R214 S0#6pin@52_polysilicon-1 S0#6pin@52_polysilicon-1##0 9.521
R215 S0#6pin@52_polysilicon-1##0 S0#6pin@52_polysilicon-1##1 9.521
R216 S0#6pin@52_polysilicon-1##1 S0#6pin@52_polysilicon-1##2 9.521
R217 S0#6pin@52_polysilicon-1##2 S0#6pin@52_polysilicon-1##3 9.521
R218 S0#6pin@52_polysilicon-1##3 S0#6pin@52_polysilicon-1##4 9.521
R219 S0#6pin@52_polysilicon-1##4 S0#6pin@52_polysilicon-1##5 9.521
R220 S0#6pin@52_polysilicon-1##5 S0 9.521
R221 S0#3pin@48_polysilicon-1 S0#3pin@48_polysilicon-1##0 5.425
R222 S0#3pin@48_polysilicon-1##0 S0#8pmos@7_poly-right 5.425
R223 net@115#6pin@61_polysilicon-1 net@115#6pin@61_polysilicon-1##0 8.37
R224 net@115#6pin@61_polysilicon-1##0 net@115#6pin@61_polysilicon-1##1 8.37
R225 net@115#6pin@61_polysilicon-1##1 net@115#6pin@61_polysilicon-1##2 8.37
R226 net@115#6pin@61_polysilicon-1##2 net@115#6pin@61_polysilicon-1##3 8.37
R227 net@115#6pin@61_polysilicon-1##3 net@115#2pin@63_polysilicon-1 8.37
R228 net@115#8nmos@6_poly-right net@115#8nmos@6_poly-right##0 6.2
R229 net@115#8nmos@6_poly-right##0 net@115#2pin@63_polysilicon-1 6.2
R230 S0#10nmos@8_poly-left S0#10nmos@8_poly-left##0 6.975
R231 S0#10nmos@8_poly-left##0 S0#11pin@57_polysilicon-1 6.975
R232 S0#11pin@57_polysilicon-1 S0#11pin@57_polysilicon-1##0 9.772
R233 S0#11pin@57_polysilicon-1##0 S0#11pin@57_polysilicon-1##1 9.772
R234 S0#11pin@57_polysilicon-1##1 S0#11pin@57_polysilicon-1##2 9.772
R235 S0#11pin@57_polysilicon-1##2 S0#11pin@57_polysilicon-1##3 9.772
R236 S0#11pin@57_polysilicon-1##3 S0#11pin@57_polysilicon-1##4 9.772
R237 S0#11pin@57_polysilicon-1##4 S0#11pin@57_polysilicon-1##5 9.772
R238 S0#11pin@57_polysilicon-1##5 S0#11pin@57_polysilicon-1##6 9.772
R239 S0#11pin@57_polysilicon-1##6 S0#11pin@57_polysilicon-1##7 9.772
R240 S0#11pin@57_polysilicon-1##7 S0#11pin@57_polysilicon-1##8 9.772
R241 S0#11pin@57_polysilicon-1##8 S0#11pin@57_polysilicon-1##9 9.772
R242 S0#11pin@57_polysilicon-1##9 S0#11pin@57_polysilicon-1##10 9.772
R243 S0#11pin@57_polysilicon-1##10 S0#11pin@57_polysilicon-1##11 9.772
R244 S0#11pin@57_polysilicon-1##11 S0#11pin@57_polysilicon-1##12 9.772
R245 S0#11pin@57_polysilicon-1##12 S0#11pin@57_polysilicon-1##13 9.772
R246 S0#11pin@57_polysilicon-1##13 S0#11pin@57_polysilicon-1##14 9.772
R247 S0#11pin@57_polysilicon-1##14 S0#11pin@57_polysilicon-1##15 9.772
R248 S0#11pin@57_polysilicon-1##15 S0#11pin@57_polysilicon-1##16 9.772
R249 S0#11pin@57_polysilicon-1##16 S0#11pin@57_polysilicon-1##17 9.772
R250 S0#11pin@57_polysilicon-1##17 S0#11pin@57_polysilicon-1##18 9.772
R251 S0#11pin@57_polysilicon-1##18 S0#11pin@57_polysilicon-1##19 9.772
R252 S0#11pin@57_polysilicon-1##19 S0#11pin@57_polysilicon-1##20 9.772
R253 S0#11pin@57_polysilicon-1##20 S0#11pin@57_polysilicon-1##21 9.772
R254 S0#11pin@57_polysilicon-1##21 S0#1pin@58_polysilicon-1 9.772
R255 S0 S0##0 8.267
R256 S0##0 S0##1 8.267
R257 S0##1 S0#3pin@48_polysilicon-1 8.267
R258 net@115#9pmos@8_poly-left net@115#10pin@59_polysilicon-1 7.75
R259 net@115#10pin@59_polysilicon-1 net@115#10pin@59_polysilicon-1##0 9.042
R260 net@115#10pin@59_polysilicon-1##0 net@115#10pin@59_polysilicon-1##1 9.042
R261 net@115#10pin@59_polysilicon-1##1 net@115#10pin@59_polysilicon-1##2 9.042
R262 net@115#10pin@59_polysilicon-1##2 net@115#10pin@59_polysilicon-1##3 9.042
R263 net@115#10pin@59_polysilicon-1##3 net@115#10pin@59_polysilicon-1##4 9.042
R264 net@115#10pin@59_polysilicon-1##4 net@115#11pin@60_polysilicon-1 9.042
R265 net@115#11pin@60_polysilicon-1 net@115#11pin@60_polysilicon-1##0 9.3
R266 net@115#11pin@60_polysilicon-1##0 net@115#11pin@60_polysilicon-1##1 9.3
R267 net@115#11pin@60_polysilicon-1##1 net@115#11pin@60_polysilicon-1##2 9.3
R268 net@115#11pin@60_polysilicon-1##2 net@115#11pin@60_polysilicon-1##3 9.3
R269 net@115#11pin@60_polysilicon-1##3 net@115#11pin@60_polysilicon-1##4 9.3
R270 net@115#11pin@60_polysilicon-1##4 net@115#11pin@60_polysilicon-1##5 9.3
R271 net@115#11pin@60_polysilicon-1##5 net@115#11pin@60_polysilicon-1##6 9.3
R272 net@115#11pin@60_polysilicon-1##6 net@115#6pin@61_polysilicon-1 9.3

* Spice Code nodes in cell cell 'MUX_4_1_TG{lay}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
Vin0 S0 0 pulse 0 3.3 100n 5n 5n 100n 200n
Vin1 S1 0 pulse 0 3.3 200n 5n 5n 200n 400n
Vin2 I0 0 pulse 0 3.3 0n 5n 5n 50n 400n
Vin3 I1 0 pulse 0 3.3 100n 5n 5n 50n 400n
Vin4 I2 0 pulse 0 3.3 200n 5n 5n 50n 400n
Vin5 I3 0 pulse 0 3.3 300n 5n 5n 50n 400n
.TRAN 0 400n
.include C:\Electric\C5_models.txt
.END
